US05221665
Synthesis of N-(tert-butyloxycarbonyl)leucinal
A solution of N-(tert-butyloxycarbonyl)-L-leucine N,O-dimethylhydroxamide (19.80 g, 0.75 mol) in 400 mL was cooled in an ice bath under a nitrogen atmosphere while lithium aluminum hydride (3.58 g, 0.094 mole) was added as rapidly as safely possible. The resulting mixture was stirred for 30 minutes and then the reaction was stopped by addition of a solution of 25.8g of potassium bisulfate in water (400 mL). The mixture was stirred 15 minutes after addition was complete and then was filtered to give a colorless filtrate. The phases were separated. The aqueous layer was extracted with ether (2×100ml). The combined ether layer solution were washed with 1N hydrochloric acid (2×200 mL), saturated aqueous sodium bicarbonate (2×200 mL) and saturated aqueous sodium chloride (100 mL). The resulting ether solution was dried over MgSO4 and the solvent was removed under vacuum to give 13.97g of an oil. NMR indicates purity of aldehyde about 65%. This was used in subsequent reactions without purification.

reactant | N-(tert-butyloxycarbonyl)-L-leucine | 0.75 mol, 19.80 g | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | lithium aluminum hydride | 0.094 mole, 3.58 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium bisulfate | 25.8g | S([O-])(O)(=O)=O.[K+]
solvent | water | 400 mL | O | H2O
product | N-(tert-butyloxycarbonyl)leucinal | 13.97g | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C=O | C11H21NO3
